US05710314
A solution of 5.1 g of o-tolylglyoxalic acid methyl ester O-difluoromethyl oxime, 0.16 g of dibenzoyl peroxide and 40 ml of carbon tetrachloride is heated to reflux. With radiation from a lamp, 3.55 g of N-bromosuccinimide are added thereto in several small portions, the mixture is left to react under reflux for 30 minutes and is then cooled to 20° C. and the succinimide which precipitates is removed by filtration. The filtrate is concentrated by evaporation; after chromatography on silica gel with hexane/ethyl acetate (6:1) pure 2-(bromomethyl)-phenylglyoxalic acid methyl ester O-difluoromethyl oxime is obtained in the form of a pale yellow oil.

reactant | o-tolylglyoxalic acid methyl ester O-difluoromethyl oxime | 5.1 g | FC(ON=C(C(=O)OC)C1=C(C=CC=C1)C)F | C11H11F2NO3
reactant | dibenzoyl peroxide | 0.16 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 3.55 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)-phenylglyoxalic acid methyl ester O-difluoromethyl oxime | FC(ON=C(C(=O)OC)C1=C(C=CC=C1)CBr)F | C11H10BrF2NO3
